US06818653B1
To a mixture of 8-hydroxyquinoline (58 g, 0.4 mol) in distilled water, concentrated hydrochloric acid (75 ml) and ice (200 g) was added NaNO2 (30 g) in water (100 ml) at 0-4° C. during 1 hr. The reaction mixture was kept at 0° C. overnight and then filtered by washing with cold water to give 5-nitroso-8-hydroxyquinoline hydrochloide (95%).

reactant | 8-hydroxyquinoline | 0.4 mol, 58 g | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | NaNO2 | 30 g | N(=O)[O-].[Na+]
solvent | water | O | H2O
solvent | hydrochloric acid | 75 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 5-nitroso-8-hydroxyquinoline | 95% | N(=O)C1=C2C=CC=NC2=C(C=C1)O | C9H6N2O2
